US08383825B2
(S)-2-amino-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
To a solution of 2-amino-5-bromonicotinic acid (189 mg, 0.87 mmol), N,N-diisopropylethylamine (0.30 mL, 1.7 mmol), and (S)-(+)-S-methyl-S-phenylsulfoximine (162 mg, 1.0 mmol) in 4.0 mL DMF at room temperature was added BOP (423 mg, 0.96 mmol). The solution was stirred 30 minutes, then heated at 60° C. for 30 minutes, and then cooled back to room temperature. After 19 hours, the mixture was dissolved in EtOAc, washed with Na2CO3 solution, H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The yellow foam was purified by chromatography (silica gel, CHCl3/EtOAc) to give the title compound as a light yellow solid (260 mg, 84%).

reactant | 2-amino-5-bromonicotinic acid | 0.87 mmol, 189 mg | NC1=C(C(=O)O)C=C(C=N1)Br | C6H5BrN2O2
reactant | N,N-diisopropylethylamine | 1.7 mmol, 0.30 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-(+)-S-methyl-S-phenylsulfoximine | 1.0 mmol, 162 mg | C[S@@](=O)(=N)C1=CC=CC=C1 | C7H9NOS
reactant | BOP | 0.96 mmol, 423 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-amino-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 260 mg, 84% | NC1=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C(C=N1)Br | C13H12BrN3O2S
